US08735579B2
Tert-butyl 4-(9-bora-bicyclo[3.3.1]non-9-ylmethyl)-piperidine-1-carboxylate
6.29 ml of a 0.5 M solution of 9-borabicyclo[3.3.1]nonane in tetrahydrofuran are added to 620 mg tert-butyl 4-methylene-piperidine-1-carboxylate under an argon atmosphere, and the reaction mixture is refluxed for 1 h. After cooling to ambient temperature the reaction solution is further reacted without any further working up.

reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | tert-butyl 4-methylene-piperidine-1-carboxylate | 620 mg | C=C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Tert-butyl 4-(9-bora-bicyclo[3.3.1]non-9-ylmethyl)-piperidine-1-carboxylate | C12CCCC(CCC1)B2CC2CCN(CC2)C(=O)OC(C)(C)C | C19H34BNO2
